US05864039
4-Aminomethyl-4-methoxy-1-(4-phenylsulfonylbutyl)piperidine dihydrochloride (2.2 g) as starting compound, triethylamine (2.2 ml), 4-amino-5-chloro-2-methoxybenzoic acid (1.07 g), 1-hydroxybenzotriazole (0.75 g) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide (1.07 g) were reacted and treated in the same manner as in Example 270 to give 1.44 g of 4-amino-5-chloro-2-methoxy-N-((4-methoxy-1-(4-phenylsulfonylbutyl)piperidin-4-yl)methyl)benzamide.

reactant | 4-Aminomethyl-4-methoxy-1-(4-phenylsulfonylbutyl)piperidine dihydrochloride | 2.2 g | Cl.Cl.NCC1(CCN(CC1)CCCCS(=O)(=O)C1=CC=CC=C1)OC
reactant | 4-amino-5-chloro-2-methoxybenzoic acid | 1.07 g | NC1=CC(=C(C(=O)O)C=C1Cl)OC | C8H8ClNO3
reactant | 1-hydroxybenzotriazole | 0.75 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide | 1.07 g | C(C)N=C=NCCCN(C)C | C8H17N3
solvent | triethylamine | 2.2 ml | C(C)N(CC)CC | C6H15N
product | 4-amino-5-chloro-2-methoxy-N-((4-methoxy-1-(4-phenylsulfonylbutyl)piperidin-4-yl)methyl)benzamide | 1.44 g | NC1=CC(=C(C(=O)NCC2(CCN(CC2)CCCCS(=O)(=O)C2=CC=CC=C2)OC)C=C1Cl)OC | C25H34ClN3O5S
